US07084166B2
Preparation of 4,4-di-(7-azaindol-3-yl)-1-butanol (ST 1866)
This compound is prepared in the same way as described in example 1/1 starting from 7-azaindol and 2-methoxy-tetrahydrofuran.

reactant | 7-azaindol | N1C=CC2=CC=CN=C12 | C7H6N2
reactant | 2-methoxy-tetrahydrofuran | COC1OCCC1 | C5H10O2
product | 4,4-di-(7-azaindol-3-yl)-1-butanol | N1C=C(C2=CC=CN=C12)C(CCCO)C1=CNC2=NC=CC=C12 | C18H18N4O
